US09340538B2
Step B: Ethyl 6-((2-(3-amino-3-oxopropyl)morpholino)methyl)-4-(2-bromo-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (1.51 g, 3 mmol) was reacted with 3-(morpholin-2-yl)propanamide (0.47 g, 3 mmol) according to the procedure as described in Example 25, Step B to give the title compound as a yellow solid (1.5 g, 86%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 3 mmol, 1.51 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C=1SC=CN1 | C17H14Br2FN3O2S
reactant | 3-(morpholin-2-yl)propanamide | 3 mmol, 0.47 g | N1CC(OCC1)CCC(=O)N | C7H14N2O2
product | Ethyl 6-((2-(3-amino-3-oxopropyl)morpholino)methyl)-4-(2-bromo-4-fluorophenyl)-2-(thiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 1.5 g, 86% | NC(CCC1OCCN(C1)CC1=C(C(N=C(N1)C=1SC=CN1)C1=C(C=C(C=C1)F)Br)C(=O)OCC)=O | C24H27BrFN5O4S
